US07943788B2
3-Bromo-1-(5-n-propyl-2-thienylmethyl)benzene
3-Bromobenzoic acid and 2-n-propylthiophene were used and treated in a manner similar to Reference Example 5 to give the target compound.

reactant | 3-Bromobenzoic acid | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
reactant | 2-n-propylthiophene | C(CC)C=1SC=CC1 | C7H10S
product | 3-Bromo-1-(5-n-propyl-2-thienylmethyl)benzene | BrC=1C=C(C=CC1)CC=1SC(=CC1)CCC | C14H15BrS
